US07241791B2
(3-chloro-2-fluorophenyl)(2,4-dimethoxyphenyl)methanone
Prepared according to Method A step B from 2-fluoro-3-chloro-N-methoxy-N-methyl-benzamide (2.44 g, 11.2 mmol) and 2,4-dimethoxyphenylmagnesium bromide (20 mL, 0.5 M in THF) to give 0.95 g of the title compound as a white solid.

reactant | 2-fluoro-3-chloro-N-methoxy-N-methyl-benzamide | 11.2 mmol, 2.44 g | FC1=C(C(=O)N(C)OC)C=CC=C1Cl | C9H9ClFNO2
reactant | 2,4-dimethoxyphenylmagnesium bromide | 0.5 M, 20 mL | COC1=C(C=CC(=C1)OC)[Mg]Br
product | (3-chloro-2-fluorophenyl)(2,4-dimethoxyphenyl)methanone | 0.95 g | ClC=1C(=C(C=CC1)C(=O)C1=C(C=C(C=C1)OC)OC)F | C15H12ClFO3
